US05216167
(p) Ethyl 2-hydroxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate
Prepared from 1-(2-piperidino-phenyl)-1-butylamine and 4-ethoxycarbonyl-3-hydroxy-phenylacetic acid.

reactant | 1-(2-piperidino-phenyl)-1-butylamine | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)N | C15H24N2
reactant | 4-ethoxycarbonyl-3-hydroxy-phenylacetic acid | C(C)OC(=O)C1=C(C=C(C=C1)CC(=O)O)O | C11H12O5
product | Ethyl 2-hydroxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate | OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C26H34N2O4
